US05126367
(1S)-(+)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-methanesulfonamide
To a solution of 2.1 g (10 mmole) of 2-{N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin and 1.3 g (10 mmole) of diisopropylethylamine in 100 ml of dichloromethane stored in an ice bath was added 2.5 g (10 mmole) (+)-10-camphorsulfonyl chloride. The mixture was allowed to stir overnight at room temperature. The reaction was next washed with saturated aqueous sodium bicarbonate, with saturated sodium chloride, dried over sodium sulfate, filtered and evaporated in vacuum. Column chromatography on 75 g of silica gel with chloroform as eluant, followed by crystallization from 100 ml of isopropanol with the addition of 5 ml of 4 N HCl/isopropyl alcohol and 300 ml of diethyl ether gave 1.2 g of the title compound as a monohydrochloride, m.p. 143°-146° C.

reactant | 2-{N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin | 10 mmole, 2.1 g | NCCNCC1COC2=C(O1)C=CC=C2 | C11H16N2O2
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (+)-10-camphorsulfonyl chloride | 10 mmole, 2.5 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1S)-(+)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-methanesulfonamide | 1.2 g | O1C(COC2=C1C=CC=C2)CNCCNS(=O)(=O)C[C@@]21C(CC(CC2)C1(C)C)=O | C21H30N2O5S
